US08383644B2
(S)-3-(4′-Cyano-biphenyl-4-yl)-2-({(3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-propionic acid methyl ester (25 mg) was reacted with 2-methoxy-4-methylbenzenesulfonyl chloride to afford (S)-3-(4′-cyano-biphenyl-4-yl)-2-{[(3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-(2-methoxy-4-methyl-benzenesulfonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-propionic acid methyl ester according to General Procedure E. This product (20 mg) was hydrolyzed according to General Procedure B to give the title compound (16 mg). LCMS (m/z):. 919.

reactant | (S)-3-(4′-Cyano-biphenyl-4-yl)-2-({(3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-propionic acid methyl ester | 25 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)=O | C42H35Cl2N3O6
reactant | 2-methoxy-4-methylbenzenesulfonyl chloride | COC1=C(C=CC(=C1)C)S(=O)(=O)Cl | C8H9ClO3S
product | (S)-3-(4′-cyano-biphenyl-4-yl)-2-{[(3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-(2-methoxy-4-methyl-benzenesulfonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)S(=O)(=O)C3=C(C=C(C=C3)C)OC)=O | C50H43Cl2N3O9S
